US04025333
4,6-Dibromo-5-hydroxy-2-pyridinecarboxylic acid (Compound No. 4):
A solution of 0.5 g sodium hydroxide in 15 ml of water was added to 2 g of 4,6-dibromo-5-hydroxy-2-pyridine-carboxylic acid methyl ester and refluxed for 2 hours. The product was isolated, by cooling and acidifying with concentrated hydrochloric acid, in 53% yield; m.p. 195° -197° C.

reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
reactant | 4,6-dibromo-5-hydroxy-2-pyridine-carboxylic acid methyl ester | 2 g | COC(=O)C1=NC(=C(C(=C1)Br)O)Br | C7H5Br2NO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 4,6-Dibromo-5-hydroxy-2-pyridinecarboxylic acid | 53% yield | BrC1=CC(=NC(=C1O)Br)C(=O)O | C6H3Br2NO3
